US07056916B2
(d) 8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
1.5 g (2.8 mmol) of 6-benzyloxy-8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}4H-benzo[1,4]oxazin-3-one in 80 mL methanol are hydrogenated with 250 mg palladium on charcoal (10%) as catalyst at ambient temperature and normal pressure. The catalyst is suction filtered and the filtrate is evaporated down. The residue is dissolved in 5 mL ethanol by heating, seeded, and diluted with ethyl acetate. The solid precipitated is filtered off and washed. White solid. Yield 1.0 g (83%, hydrochloride); melting point: 232° C.–235° C.; mass spectrometry: [M+H]+=401.

reactant | 6-benzyloxy-8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}4H-benzo[1,4]oxazin-3-one | 2.8 mmol, 1.5 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)OCC)(C)C)O | C29H34N2O5
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
product | 8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | C(C)OC1=CC=C(C=C1)CC(C)(C)NCC(O)C1=CC(=CC=2NC(COC21)=O)O | C22H28N2O5
